US05143928
Iodomethane (0.5 mL, 8 mmols) is added to a stirred suspension of 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-thioxo-4-imidazolidinone (2.5 g, 7.5 mmols) and diisopropylethylamine (1.35 mL, 7.7 mmols) in ethanol (25 mL), and the mixture is stirred under an inert atmosphere at room temperature. After 5 hours the resultant solution is stirred into water (150 ml). After a hour the precipitate is filtered off, rinsed three times with water and dried to afford the 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-1,5-dihydro-2-(methylthio)-4H-imidazol-4-one (2.6 g), mp 248°-249° C.

reactant | Iodomethane | 8 mmols, 0.5 mL | IC | CH3I
reactant | 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-thioxo-4-imidazolidinone | 7.5 mmols, 2.5 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NC(N1)=S)=O | C18H24N2O2S
reactant | diisopropylethylamine | 7.7 mmols, 1.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 150 ml | O | H2O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-1,5-dihydro-2-(methylthio)-4H-imidazol-4-one | 2.6 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N=C(N1)SC)=O | C19H26N2O2S
